US04670433
7-methyl-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione M.p. 260.0°-260.6° C.
(S)-7-methyl-1,2,3,11a-tetrahydro-5H-pyrrolo (2,1-c) (1,4) benzodiazepine-5,11(10H)-dione by reaction with L-proline. M.p. 243.1°-244.5° C.

reactant | (S)-7-methyl-1,2,3,11a-tetrahydro-5H-pyrrolo (2,1-c) (1,4) benzodiazepine-5,11(10H)-dione | CC=1C=CC2=C(C(N3[C@H](C(N2)=O)CCC3)=O)C1 | C13H14N2O2
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | 7-methyl-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | CC=1C=CC2=C(C(N(CC(N2)=O)C)=O)C1 | C11H12N2O2
